US04009187
8-(5-Hydroxymethyl-2-furyl)octanoic acid methyl ester
8-(5-Acetoxymethyl-2-furyl)-octanoic acid methyl ester (25.00 g, 0.084 moles), 6% aqueous potassium carbonate (200 g), and methanol (750 ml) were stirred at room temperature for 30 minutes. The solution was concentrated to 1/5 of the volume by distillation from a water bath (40° C) under reduced pressure (60 mm Hg). The residue was diluted with water (400 ml) and extracted with two 500-ml portions of ether. The combined ethereal extracts were washed with water (300 ml) and dried over magnesium sulfate. Evaporation of the solvent from a water bath (60° C) under reduced pressure, at last under 15 mm Hg, left a tea-coloured, oily residue (17.31 g), which after distillation gave 16.30 g (76%) of the title compound, b0.1 141° C, nD25 1.4815.

reactant | 8-(5-Acetoxymethyl-2-furyl)-octanoic acid methyl ester | 0.084 moles, 25.00 g | COC(CCCCCCCC=1OC(=CC1)COC(C)=O)=O | C16H24O5
reactant | potassium carbonate | 200 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 750 ml | CO | CH4O
product | 8-(5-Hydroxymethyl-2-furyl)octanoic acid methyl ester | 16.30 g, 76% | COC(CCCCCCCC=1OC(=CC1)CO)=O | C14H22O4
